US08431575B2
4-(4-Benzyloxy-phenyl)-3-butyl-6-(3-piperidin-1-yl-propoxy)-pyridazine dihydrochloride
4-(4-Benzyloxy-phenyl)-3-butyl-6-(3-piperidin-1-yl-propoxy)-pyridazine was dissolved in 4.0 M HCl in dioxane and evaporated the solvent. The resultant salt was washed with ether and dried to provide the title compound (20 mg). LCMS: m/z 461 [M+1]. 1H NMR (400 MHz, CD3OD) 7.35 (2H, d), 7.21-7.25 (5H, m), 7.03 (2H, d), 6.91 (1H, s), 5.06 (2H, s), 4.48 (2H, t), 3.48 (2H, d), 2.80-2.91 (4H, m), 2.23 (2H, s), 1.73-1.1.87 (6H, m), 1.36-1.41 (3H, m), 1.09-1.14 (3H, m), 0.68 (3H, t).

reactant | 4-(4-Benzyloxy-phenyl)-3-butyl-6-(3-piperidin-1-yl-propoxy)-pyridazine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OCCCN1CCCCC1)CCCC | C29H37N3O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-Benzyloxy-phenyl)-3-butyl-6-(3-piperidin-1-yl-propoxy)-pyridazine dihydrochloride | 20 mg | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OCCCN1CCCCC1)CCCC | InChI=1S/C29H37N3O2.2ClH/c1-2-3-13-28-27(22-29(31-30-28)33-21-10-20-32-18-8-5-9-19-32)25-14-16-26(17-15-25)34-23-24-11-6-4-7-12-24;;/h4,6-7,11-12,14-17,22H,2-3,5,8-10,13,18-21,23H2,1H3;2*1H
